US04061641
1-Benzoyl-3-[1-(4-[3-indolyl]-4-oxobutyl)piperid-4-yl]urea free base (2.9g), sodium hydroxide (0.54g), ethanol (15ml) and water (5ml) were refuxed for two hours and then poured into cold water, the precipitated solid was filtered off and crystallised from ethanol to give 1-[1-(4-[3-indolyl]-4-oxobutyl)piperid-4-yl]urea.

reactant | 1-Benzoyl-3-[1-(4-[3-indolyl]-4-oxobutyl)piperid-4-yl]urea | 2.9g | C(C1=CC=CC=C1)(=O)NC(=O)NC1CCN(CC1)CCCC(=O)C1=CNC2=CC=CC=C12 | C25H28N4O3
reactant | sodium hydroxide | 0.54g | [OH-].[Na+]
reactant | ethanol | 15ml | C(C)O | C2H6O
solvent | water | O | H2O
solvent | water | 5ml | O | H2O
product | 1-[1-(4-[3-indolyl]-4-oxobutyl)piperid-4-yl]urea | N1C=C(C2=CC=CC=C12)C(CCCN1CCC(CC1)NC(=O)N)=O | C18H24N4O2
